US07495007B2
Preparation of racemic (2′R,3R,4′S)-6-chloro-4′-(5-chloro-2-isopropoxy-phenyl)-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
In a manner similar to the method described in Example 41b, E/Z-6-Chloro-3-(5-chloro-2-isopropoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (2 g, 4.47 mmol) was reacted with 1-(1-methyl-ethenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (22.37 mmol) in toluene to give title compound as a white solid (1.3 g).

reactant | Z-6-Chloro-3-(5-chloro-2-isopropoxy-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 4.47 mmol, 2 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC(C)C)=O | C23H23Cl2NO4
reactant | 1-(1-methyl-ethenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 22.37 mmol | CC(=C)C=NC(=C)O[Si](C)(C)C | C9H17NOSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | racemic (2′R,3R,4′S)-6-chloro-4′-(5-chloro-2-isopropoxy-phenyl)-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 1.3 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)C)=O)C(=C)C)=O | C24H24Cl2N2O3
